US04409229
A mixture of 0.5 g of 1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine], Example 4, 0.4 g of cyclopropylcarbonyl chloride and 1.0 g of sodium bicarbonate in 20 ml of dichloromethane is stirred at ambient temperature for 16 hours. The well stirred mixture is filtered and the filtrate is concentrated to dryness. The residue is passed through a silica gel/ether column with an ether eluant to provide pure 1'-cyclopropylcarbonyl-1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine].

reactant | 1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine] | 0.5 g | C1(=CC=CC=C1)C1C2=C(C=CC=C2)C2(CCNCC2)S1 | C18H19NS
reactant | cyclopropylcarbonyl chloride | 0.4 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sodium bicarbonate | 1.0 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1'-cyclopropylcarbonyl-1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine] | C1(CC1)C(=O)N1CCC2(CC1)SC(C1=C2C=CC=C1)C1=CC=CC=C1 | C22H23NOS
